**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Vertical Cavity Surface Emitting Laser
* Matchcode:              WE-VCSL
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella       
* Date and Time:          2022-03-02
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 3535_159353850A6300 1 2
D1 1 2 VCSL
.MODEL VCSL D
+ IS=277.94E-18
+ N=1.4670
+ RS=.11529
+ IKF=2.4554E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3535_159353850B1300 1 2
D1 1 2 VCSL
.MODEL VCSL D
+ IS=14.388E-12
+ N=2.4227
+ RS=.10255
+ IKF=.91
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3535_159353940A6300 1 2
D1 1 2 VCSL
.MODEL VCSL D
+ IS=71.430E-15
+ N=1.5005
+ RS=.11276
+ IKF=757.64E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3535_159353940B1300 1 2
D1 1 2 VCSL
.MODEL VCSL D
+ IS=1.9176E-9
+ N=2.7798
+ RS=68.754E-3
+ IKF=2.0609
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******